US04352913
(CH3)2NCH2CH2CH2NHCONH(CH2)3CH3
With stirring and cooling to 55°-60° C., 49.5 g of freshly distilled butyl isocyanate are added dropwise to freshly distilled 3-dimethylamino-1-propylamine under nitrogen in the course of 15 minutes. After 1 hour at 60° C., low boiling constituents are removed at a pressure of 0.1 torr and a maximum bath temperature of 140° C. Yield: 98.7 g (98%) of product of the above structure. Titration: 1 equivalent=208.3 g (theory 201.3 g).

reactant | butyl isocyanate | C(CCC)N=C=O | C5H9NO
reactant | 3-dimethylamino-1-propylamine | CN(CCCN)C | C5H14N2
product | (CH3)2NCH2CH2CH2NHCONH(CH2)3CH3 | N(C)(C)CCCNC(=O)NCCCC | C10H23N3O
